US07244740B2
To a cold (−78° C.) solution of 8-chloro-2-(3-methoxyphenyl)imidazo[1,2-α]pyridine-3-carbaldehyde (1.06 g, 3.70 mmol) in tetrahydrofuran (20 mL) was added ethynyl magnesium bromide (18.53 mL, 0.5 M in tetrahydrofuran, 9.26 mmol). After 15 minutes, the resulting mixture was allowed to warm to room temperature and stirred an additional 30 minutes. Water was added and then ether. The organic layer was washed with brine. The aqueous layer was extracted with ether and the combined organics were dried over magnesium sulfate. Filtration and concentration followed by flash chromatography (1:1 hexanes-ethyl acetate to 100% ethyl acetate) provided 1-[8-chloro-2-(3-methoxyphenyl)imidazo[1,2-α]pyridin-3-yl]-2-propyn-1-ol (910 mg, 79%) as a white solid. 1H NMR (CDCl3): δ 8.61 (d, 1 H), 7.33–7.26 (m, 2 H), 7.16–7.11 (m, 2 H), 6.88 (m, 1 H), 6.79 (m, 1 H), 6.14 (m, 1 H), 3.85 (s, 3 H), 3.27 (broad, 1 H), 2.64 (d, 1 H); 13C NMR (CDCl3): δ 159.64, 144.46, 134.12, 129.56, 124.99, 124.51, 123.03, 121.37, 119.43, 114.54, 114.13, 111.81, 111.27, 79.96, 75.03, 55.88, 55.38; MS m/z 313 (M+1); Anal. Calcd. for C17H13ClN2O2: C, 65.29; H, 4.19; N, 8.96. Found: C, 65.23; H, 4.34; N, 8.81.

reactant | 8-chloro-2-(3-methoxyphenyl)imidazo[1,2-α]pyridine-3-carbaldehyde | 3.70 mmol, 1.06 g | ClC=1C=2N(C=CC1)C(=C(N2)C2=CC(=CC=C2)OC)C=O | C15H11ClN2O2
reactant | ethynyl magnesium bromide | 9.26 mmol, 0.5 M, 18.53 mL | C(#C)[Mg]Br
reactant | Water | O | H2O
reactant | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-[8-chloro-2-(3-methoxyphenyl)imidazo[1,2-α]pyridin-3-yl]-2-propyn-1-ol | 910 mg, 79% | ClC=1C=2N(C=CC1)C(=C(N2)C2=CC(=CC=C2)OC)C(C#C)O | C17H13ClN2O2
